US03948967
A solution of 1-(3,4-dichlorophenyl)-1-hydroxy-3-methylurea (15 grams; 0.06 mol) in isopropyl alcohol (50 ml), and pyridine (8 ml) were charged into a glass reaction flask equipped with a mechanical stirrer. Methyl chloroformate (7 ml; 0.09 mol) was then slowly added, with stirring, at a temperature of 10° to 15°C. After the addition was completed stirring was continued for an additional period of one-half hour resulting in the formation of a precipitate. After this time the reaction mixture was poured onto ice and the precipitate recovered by filtration. The precipitate was recrystallized first from a benzene-hexane mixture and then from a methyl alcohol-water mixture to yield 1-(3,4-dichlorophenyl)-1-methoxycarbonyloxy-3-methylurea having a melting point of 110°C with decomposition and having the following elemental analysis as calculated for C10H10Cl2N2O4 :

reactant | 1-(3,4-dichlorophenyl)-1-hydroxy-3-methylurea | 0.06 mol, 15 grams | ClC=1C=C(C=CC1Cl)N(C(=O)NC)O | C8H8Cl2N2O2
reactant | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
reactant | Methyl chloroformate | 0.09 mol, 7 ml | ClC(=O)OC | C2H3ClO2
solvent | isopropyl alcohol | 50 ml | C(C)(C)O | C3H8O
product | 1-(3,4-dichlorophenyl)-1-methoxycarbonyloxy-3-methylurea | ClC=1C=C(C=CC1Cl)N(C(=O)NC)OC(=O)OC | C10H10Cl2N2O4
